US07435735B2
Step 4: Methyl (6S)-8-ethyl-10-(methoxy)-6-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]-pyrazine-4-carboxylate
A solution of ethyl (4S)-2-ethyl-8-(methoxy)-6-[1-(methoxycarbonyl)vinyl]-4-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate (0.19 g, 0.54 mmol) in a mixture of toluene (10 mL) and methanol (4 mL) was treated with a saturated solution of ammonia in methanol (10 mL). The mixture was stirred at rt overnight. The product mixture concentrated under vacuum to provide the corresponding cyclization product. Treatment of the above intermediate (0.34 g, 1.01 mmol) and manganese(IV) oxide (0.26 g, 3.04 mmol) in toluene (10 mL) was heated in a sealed tube in an oil bath 80° C. overnight. The reaction mixture was cooled to rt, diluted with chloroform (100 mL) and filtered through a pad of Celite. The filtrate was concentrated under vacuum. The filtrate was subjected to column chromatography on silica gel eluting with ethyl acetate. Collection and concentration of appropriate fractions provided the titled compound.

reactant | ethyl (4S)-2-ethyl-8-(methoxy)-6-[1-(methoxycarbonyl)vinyl]-4-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | 0.54 mmol, 0.19 g | C(C)N1C(C=2N([C@H](C1)C)C(=C(C2OC)C(=O)OCC)C(=C)C(=O)OC)=O | C18H24N2O6
reactant | ammonia | N | H3N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 4 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese(IV) oxide | 3.04 mmol, 0.26 g | [O-2].[Mn+4].[O-2]
product | Methyl (6S)-8-ethyl-10-(methoxy)-6-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]-pyrazine-4-carboxylate | C(C)N1C(C=2N([C@H](C1)C)C1=C(C2OC)C(NC=C1C(=O)OC)=O)=O | C16H19N3O5
